US08202858B2
1-{4-[(Butyl-methyl-amino)-methyl]-piperidin-1-yl}-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
A solution of 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidine-4-carbaldehyde from Example E58.1 (2.43 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) was added to a solution of butyl-methyl-amine (0.43 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) and the mixture was heated at 50° C. for 3 h then stirred at room temperature for 2 days. A solution of sodium tri-acetoxyborohydride (1.59 mg, 0.0075 mmol) in DMF (0.05 ml) was added and the mixture was stirred for 20 h at room temperature. Solvents were removed in vacuo to yield the title compound. MS: (ESI)+:[M+H]+=557.6

reactant | 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidine-4-carbaldehyde | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)N2CCC(CC2)C=O | C28H31N5O3
reactant | butyl-methyl-amine | 0.005 mmol, 0.43 mg | C(CCC)NC | C5H13N
reactant | sodium tri-acetoxyborohydride | 0.0075 mmol, 1.59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 1-{4-[(Butyl-methyl-amino)-methyl]-piperidin-1-yl}-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | C(CCC)N(C)CC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C33H44N6O2
